US06335360B1
Methyl 2-azido-3-(2,3-methylenedioxyphenyl)propenoate
A solution of 2,3-methylenedioxy benzaldehyde (15.76 g, 104 mmol) and methylazidoacetate (48.38 g, 419 mmol) in methanol was cooled to −15° C. using an ice/acetone bath. The resulting solution was then treated over one hour with sodium methoxide (96 ml) at a rate that maintained the temperature below −10° C. After 3 hours, the solution was stored at 5° C. for two days to give crystalline material which was filtered off and washed with hexane.

reactant | 2,3-methylenedioxy benzaldehyde | 104 mmol, 15.76 g | C1OC2=C(C=O)C=CC=C2O1 | C8H6O3
reactant | methylazidoacetate | 419 mmol, 48.38 g | COC(CN=[N+]=[N-])=O | C3H5N3O2
reactant | sodium methoxide | 96 ml | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | Methyl 2-azido-3-(2,3-methylenedioxyphenyl)propenoate | N(=[N+]=[N-])C(C(=O)OC)=CC1=C2C(=CC=C1)OCO2 | C11H9N3O4
